US04416985
24 g of 3β-tribenzylsilyloxy-7β-hydroxy-15β,16β-methylene-5-androsten-17-one is dissolved in 50 ml of toluene, combined with 500 mg of vanadium(IV) oxide acetylacetonate, and heated to 80° C. A solution of 75 ml tert.-butyl hydroperoxide (10 ml 80% tert.-butyl hydroperoxide in 100 ml of toluene) is added dropwise to the reaction mixture, and the latter is allowed to stand for 1.5 hours at this temperature. After cooling, the mixture is washed with water and saturated sodium chloride solution, dried, and evaporated under vacuum, thus obtaining 24.5 g of 3β-tribenzylsilyloxy-5,6β-epoxy-7β-hydroxy-15β,16β-methylene-5β-androstan-17-one.

reactant | 3β-tribenzylsilyloxy-7β-hydroxy-15β,16β-methylene-5-androsten-17-one | 24 g | C(C1=CC=CC=C1)[Si](O[C@@H]1CC2=C[C@@H]([C@H]3[C@@H]4[C@H]5[C@@H](C([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)C5)O)(CC5=CC=CC=C5)CC5=CC=CC=C5 | C41H48O3Si
reactant | tert.-butyl hydroperoxide | 75 ml | C(C)(C)(C)OO | C4H10O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3β-tribenzylsilyloxy-5,6β-epoxy-7β-hydroxy-15β,16β-methylene-5β-androstan-17-one | 24.5 g | C(C1=CC=CC=C1)[Si](O[C@@H]1C[C@@]23[C@@H]([C@@H]([C@H]4[C@@H]5[C@H]6[C@@H](C([C@@]5(C)CC[C@@H]4[C@]2(CC1)C)=O)C6)O)O3)(CC3=CC=CC=C3)CC3=CC=CC=C3 | C41H48O4Si
